US20010008943A1
Dimethylformamide (600 ml), p-pentyloxyacetophenone (60.0 g) and dimethyl terephthalate (73.5 g) were charged in 1-liter three-necked flask and stirred. To this mixture was added 28% methanolic solution (84.2 g) of sodium methoxide and, after that, a reaction was carried out at the inner temperature of 35 to 40° C. for 48 hours. After completion of the reaction, the reaction solution was added to a mixed solution of water (3,000 ml) and 1N hydrochloric acid (600 ml) to separate the crystals. The mixture was stirred at room temperature for 1 hour, and then the separated crystals were filtered. The wet crystals and methanol (1,000 ml) were charged in a 2-liter three-necked flask, heated to reflux for 2 hours and cooled down to room temperature, and the crystals were filtered. The crystals were washed with methanol (200 ml). The crystals were dried overnight in vacuo to give 1-(4-methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)-propane-1,3-dione (66.0 g).

reactant | p-pentyloxyacetophenone | 60.0 g | C(CCCC)OC1=CC=C(C=C1)C(C)=O | C13H18O2
reactant | dimethyl terephthalate | 73.5 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 1N, 600 ml | Cl | ClH
solvent | water | 3,000 ml | O | H2O
solvent | Dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 1-(4-methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)-propane-1,3-dione | 66.0 g | COC(=O)C1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OCCCCC)=O | C22H24O5
